US07153878B2
(4-Hydroxy-2-methyl-phenyl)-acetic acid methyl ester
(4-Methoxy-2-methyl-phenyl)-acetic acid methyl ester (1.5 g, 7.72 mmol) is stirred in dichloromethane (50 mL) at 0 deg. C. Aluminum chloride (4.13 g, 31 mmol) is added followed by ethane thiol (2.9 mL, 38.6 mmol). The resulting mixture is stirred at room temperature for 2 hr. Water (50 mL) is added and the product is extracted into ethyl acetate (3×50 ml), the extracts are combined, dried over anhydrous magnesium sulfate, filtered, and concentrated to afford the title compound as a colorless oil, 1.4 g, 100%. MS M++1 181. The structure is confirmed by 1H NMR spectroscopy.

reactant | (4-Methoxy-2-methyl-phenyl)-acetic acid methyl ester | 7.72 mmol, 1.5 g | COC(CC1=C(C=C(C=C1)OC)C)=O | C11H14O3
reactant | Aluminum chloride | 31 mmol, 4.13 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethane thiol | 38.6 mmol, 2.9 mL | C(C)S | C2H6S
reactant | Water | 50 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (4-Hydroxy-2-methyl-phenyl)-acetic acid methyl ester | COC(CC1=C(C=C(C=C1)O)C)=O | C10H12O3
